US07638514B2
Preparation of 1-(4-{2-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy-methyl]-allyloxy}-phenyl)-ethanone O-methyl-oxime
286 mg of 1-(4-{2-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxymethyl]-allyloxy}-phenyl)-ethanone and 56 mg of O-methyl-hydroxylamine hydrochloride are introduced into 4 ml of methanol. 55 mg of sodium acetate are then added and the mixture is stirred for 24 hours at 25° C. The reaction mixture is diluted with 12 ml of ethyl acetate and washed twice with water. After concentration of the organic phase and purification over silica gel, the title compound is obtained.

reactant | 1-(4-{2-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxymethyl]-allyloxy}-phenyl)-ethanone | 286 mg | ClC1=C(OCC(COC2=CC=C(C=C2)C(C)=O)=C)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C21H18Cl4O4
reactant | O-methyl-hydroxylamine hydrochloride | 56 mg | Cl.CON
reactant | methanol | 4 ml | CO | CH4O
reactant | sodium acetate | 55 mg | C(C)(=O)[O-].[Na+]
solvent | ethyl acetate | 12 ml | C(C)(=O)OCC | C4H8O2
product | 1-(4-{2-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy-methyl]-allyloxy}-phenyl)-ethanone O-methyl-oxime | CON=C(C)C1=CC=C(C=C1)OCC(=C)COC1=C(C=C(C=C1Cl)OCC=C(Cl)Cl)Cl | C22H21Cl4NO4
